US06475595B1
A solution of 54.5 ml of 1-bromopentane in 200 ml of THF was added dropwise to 10.7 g of magnesium turnings under a layer of 100 ml of THF, and the mixture was subsequently refluxed for 1 hour. A solution of 104.5 g of 4-(4-ethoxy-2,3-difluorophenyl)cyclohexanone (obtainable by lithiation of 4-ethoxy-2,3-difluorobenzene using n-butyllithium, reaction with 1,4-dioxaspiro[4.5]decan-8-one, dehydration and hydrogenation of the resultant alkene, followed by removal of the carbonyl protecting group under acidic conditions) in 500 ml of THF was then added dropwise at 40° C., and the mixture was refluxed for 2 hours. Conventional work-up gave 4-(4-ethoxy-2,3-difluorophenyl)-1-pentylcyclohexanol.

reactant | 1-bromopentane | 54.5 ml | BrCCCCC | C5H11Br
reactant | magnesium | 10.7 g | [Mg] | Mg
reactant | 4-(4-ethoxy-2,3-difluorophenyl)cyclohexanone | 104.5 g | C(C)OC1=C(C(=C(C=C1)C1CCC(CC1)=O)F)F | C14H16F2O2
reactant | 4-ethoxy-2,3-difluorobenzene | C(C)OC1=C(C(=CC=C1)F)F | C8H8F2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,4-dioxaspiro[4.5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(4-ethoxy-2,3-difluorophenyl)-1-pentylcyclohexanol | C(C)OC1=C(C(=C(C=C1)C1CCC(CC1)(O)CCCCC)F)F | C19H28F2O2
